US09328099B2
Benzenesulfinic acid sodium salt (9.4 g, 57 mmol) was dissolved in a mixture of water (18.3 mL) and acetic acid (9.1 mL). 2-Chloroprop-2-enenitrile (4.6 mL, 57 mmol) was added, followed by MeOH (18.3 mL). The resulting mixture was allowed to stir for 10 minutes before the solid product was collected by filtration and rinsed with minimal water. The majority of the solid filtered through with the rinse and so all material was rinsed through the filter. The filtrate was extracted with DCM (2×) and the combined organic layers were washed with saturated aqueous NaHCO3, brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo to afford 2-chloro-3-(phenylsulfonyl)propanenitrile as a crude residue. Crude 2-chloro-3-(phenylsulfonyl)propanenitrile (6.1 g, 27 mmol) was dissolved in chloroform (41 mL) cooled in an ice-salt bath and stirred before adding TEA (3.7 mL, 27 mmol) dropwise. The mixture was allowed to stir at 0° C. for 20 minutes. The reaction mixture was then washed sequentially with dilute 1N aqueous HCl, followed by saturate aqueous NaHCO3. The organic layer was dried over anhydrous Na2SO4, filtered, and concentrated in vacuo (23° C. water bath) to afford (2E and 2Z)-3-(phenylsulfonyl)prop-2-enenitrile as a crude residue. The crude residue (4.9 g, 25 mmol) and (buta-1,3-dien-2-yloxy)(trimethyl)silane (4.2 g, 29 mmol) were refluxed together in benzene (63.8 mL) under nitrogen for 16 hours. The reaction mixture was then concentrated in vacuo to afford an oily mixture of the intermediate adducts. The residue was dissolved in aqueous acetic acid (80%) and allowed to stir. After 1 hour at ambient temperature, the mixture was diluted with water and extracted with DCM (2×). The combined organic extracts were concentrated in vacuo and the residue was dissolved in DCM. A solid precipitated from the solution and was collected by filtration to afford the title compound.

reactant | Benzenesulfinic acid sodium salt | 57 mmol, 9.4 g | [Na+].C1(=CC=CC=C1)S(=O)[O-]
reactant | 2-Chloroprop-2-enenitrile | 57 mmol, 4.6 mL | ClC(C#N)=C | C3H2ClN
reactant | MeOH | 18.3 mL | CO | CH4O
solvent | water | 18.3 mL | O | H2O
solvent | acetic acid | 9.1 mL | C(C)(=O)O | C2H4O2
product | 2-chloro-3-(phenylsulfonyl)propanenitrile | ClC(C#N)CS(=O)(=O)C1=CC=CC=C1 | C9H8ClNO2S
